US07612067B2
Preparation of 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carbonitrile
A solution of 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.50 g, 1.28 mmol), DMF (5 mL), and Zn(CN)2 (0.090 g, 0.76 mmol) is degassed with nitrogen for 15 minutes. Pd(PPh3)4 (0.74 g, 0.064 mmol) and the solution heated at 100° C. overnight. The solution is diluted with EtOAc (50 mL), washed with 2 M NH4OH (2×30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated. Purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) furnish the title compound (0.39 g, 1.15 mmol, 91%). 1H NMR (CDCl3), δ 0.87 (t, J=7.5 Hz, 6H), 1.74-1.91 (m, 4H), 2.15 (s, 3H), 2.46 (s, 3H), 2.51 (s, 3H), 3.26-3.34 (m, 1H), 6.72 (s, 1H), 7.53 (s, 1H). LC/MS (m/z): calcd. for C19H22N4S (M+H)+: 339.6; found: 339.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.28 mmol, 0.50 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Zn(CN)2 | 0.76 mmol, 0.090 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.064 mmol, 0.74 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carbonitrile | 1.15 mmol, 0.39 g, 91% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C=C(S2)C#N)C | C19H22N4S
